### ISSUE TITLE
Need help with myint implementation -- equivalence not rewritable

### ISSUE THREAD

**Issue by plumsirawit** [plumsirawit/mynat#1]
For example when I write
```lean
example : (5 : myint) - (2 : myint) = (3 : myint) := by
  rw [sub_eq_mysub]
  rw [mysub]
  have : (3 : myint) ≈ (3 : myint) := rfl
  have : (3 : myint) ≈ (3 : myint) + (0 : myint) := by exact add_zero 3
  have : (3 : myint) ≈ (3 : myint) + (2 - 2 : myint) := by
    rw [sub_eq_plusneg]
    conv =>
      rhs
      arg 2
      rw [neg_is_inv 2]
```
I cannot rewrite `2 + -2` to `0` even though I've proved that `2 + -2 ≈ 0` (shown as `neg_is_inv`). I don't know how to deal with the equivalence relation `≈` defined by
```lean
def myequal (a b : myint) : Prop :=
  (a.x + b.y) = (a.y + b.x)
```
Hence, the example 5 - 2 = 3 is stuck right here.

**Comment by plumsirawit** [comment]
Done. Equivalence is rewritable (but harder) with `trans` and lots of `have` statements.
